US09334267B2
1-(5-(2-Amino-7-methylpyrido[2,3-d]pyrimidin-6-yl)-2-fluoro-4-methylphenyl)-3-(3,3-dimethylbutyl)urea
Treat a suspension of 1-(3,3-dimethylbutyl)-3-(2-fluoro-4-methyl-5-(7-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-6-yl)phenyl)urea (0.248 g, 0.562 mmol) in DCM (20 mL) with 70 wt % mCPBA (0.208 g, 0.842 mmol) and stir the mixture at RT for 2 h. Add ammonia (0.5N in dioxane, 8.99 mL, 4.49 mmol) and stir the mixture at RT overnight. Add additional ammonia (7N in MeOH, 5 mL, 35 mmol) and stir at RT overnight. Concentrate the mixture to dryness, treat with saturated. Na2CO3 and extract with DCM (4×). Dry the combined organics over MgSO4, concentrate to dryness and purify via silica gel chromatography (50-100% EtOAc/Hex, then 0-10% MeOH/EtOAc) to afford the title compound as an off-white solid (57 mg, 24%). MS (m/z): 411.2 (M+1).

reactant | 1-(3,3-dimethylbutyl)-3-(2-fluoro-4-methyl-5-(7-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-6-yl)phenyl)urea | 0.562 mmol, 0.248 g | CC(CCNC(=O)NC1=C(C=C(C(=C1)C1=CC2=C(N=C(N=C2)SC)N=C1C)C)F)(C)C | C23H28FN5OS
reactant | mCPBA | 0.842 mmol, 0.208 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | ammonia | 4.49 mmol, 0.5N, 8.99 mL | N | H3N
reactant | ammonia | 35 mmol, 7N, 5 mL | N | H3N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-(5-(2-Amino-7-methylpyrido[2,3-d]pyrimidin-6-yl)-2-fluoro-4-methylphenyl)-3-(3,3-dimethylbutyl)urea | 57 mg, 24% | NC=1N=CC2=C(N1)N=C(C(=C2)C=2C(=CC(=C(C2)NC(=O)NCCC(C)(C)C)F)C)C | C22H27FN6O
